US04456716
N-Cyclohexyl-2-(3,5-di-tert-butyl-4-hydroxyphenylthio)-succinimide
The procedure of Example 1 is repeated using 11.95 grams of 2,6-di-tert-butyl-4-mercaptophenol, 8.96 grams of N-cyclohexylmaleimide, and 0.5 grams of triethylamine. The residue is recrystallized from a heptane-toluene mixture to give 10.5 grams of a white solid, m.p. 94°-98° C.

reactant | 2,6-di-tert-butyl-4-mercaptophenol | 11.95 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | N-cyclohexylmaleimide | 8.96 grams | C1(CCCCC1)N1C(C=CC1=O)=O | C10H13NO2
solvent | triethylamine | 0.5 grams | C(C)N(CC)CC | C6H15N
product | N-Cyclohexyl-2-(3,5-di-tert-butyl-4-hydroxyphenylthio)-succinimide | 10.5 grams | C1(CCCCC1)N1C(C(CC1=O)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C24H35NO3S
